US06316477B1
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole (Compound No. 2-2)
1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole (151 mg, 0.29 mmol) was dissolved in 5 ml of acetone and 1.2 N hydrochloric acid (0.12 ml, 0.14 mmol) was added, and then the mixture was stirred at room temperature. Seven hours after stirring, 1.2 N hydrochloric acid (0.12 ml, 0.14 mmol) was further added, followed by stirring at room temperature for 3 days. Furthermore, 1.2 N hydrochloric acid (0.12 ml, 0.14 mmol) was added, followed by heating to 50° C. and stirring for another 9 hours. After 5 ml of water and 2 ml of an aqueous saturated sodium hydrogencarbonate solution were added, acetone was distilled off and extracted with 40 ml ethyl acetate. The ethyl acetate layer was washed twice with 30 ml of an aqueous saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off to obtain 136 mg (0.29 mmol) of the title compound as a yellowish crystal.

reactant | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole | 0.29 mmol, 151 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1N=COC)S(=O)C(F)(F)F)C1=NOC=N1 | C15H7Cl2F6N5O3S
reactant | hydrochloric acid | 0.14 mmol, 1.2 N, 0.12 ml | Cl | ClH
reactant | hydrochloric acid | 0.14 mmol, 1.2 N, 0.12 ml | Cl | ClH
reactant | hydrochloric acid | 0.14 mmol, 1.2 N, 0.12 ml | Cl | ClH
reactant | water | 5 ml | O | H2O
reactant | sodium hydrogencarbonate | 2 ml | C(O)([O-])=O.[Na+]
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-(1,2,4-oxadiazol-3-yl)-4-trifluoromethylsulfinylpyrazole | 0.29 mmol, 136 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1=NOC=N1)S(=O)C(F)(F)F | C13H5Cl2F6N5O2S
